US07582631B2
(1,2-Dimethyl-propyl)-{4-[5-(5-isopropyl-(1S,4S)-2,5-diaza-bicyclo[2.2.1]hept-2-yl)-imidazo[1,2-c]pyrimidin-7-yl]-pyridin-2-yl}-amine
The mixture of 25 mg (0.066 mmol) {4-[5-(2,5-diaza-bicyclo[2.2.1]hept-2-yl-)-imidazo[1,2-c]pyrimidin-7-yl]-pyridin-2-yl}-(1,2-dimethyl-propyl)-amine in 5 mL chloroform was treated with 38 mg (0.66 mmol) acetone, 41 mg (0.66 mmol) NaBH3(CN) and 1 mL methanol. The mixture was stirred at rt for 15 h. MS showed all starting materials were converted. The mixture was diluted with 100 mL DCM, washed with 20 mL sat. NaHCO3, dried over anhydrous Na2SO4. After purification by chromatography, obtained the title compound as a yellow solid. MS (ES+): 420 (M+H)+.

reactant | {4-[5-(2,5-diaza-bicyclo[2.2.1]hept-2-yl-)-imidazo[1,2-c]pyrimidin-7-yl]-pyridin-2-yl}-(1,2-dimethyl-propyl)-amine | 0.066 mmol, 25 mg | C12N(CC(NC1)C2)C2=NC(=CC=1N2C=CN1)C1=CC(=NC=C1)NC(C(C)C)C | C21H27N7
reactant | acetone | 0.66 mmol, 38 mg | CC(=O)C | C3H6O
reactant | methanol | 1 mL | CO | CH4O
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | (1,2-Dimethyl-propyl)-{4-[5-(5-isopropyl-(1S,4S)-2,5-diaza-bicyclo[2.2.1]hept-2-yl)-imidazo[1,2-c]pyrimidin-7-yl]-pyridin-2-yl}-amine | CC(C(C)C)NC1=NC=CC(=C1)C1=CC=2N(C(=N1)N1[C@@H]3CN([C@H](C1)C3)C(C)C)C=CN2 | C24H33N7
